### PR TITLE
feat(ErdosProblems): 385

### LINKED ISSUE #702: Erdős Problem 385
### What is the conjecture
    
https://www.erdosproblems.com/385

  Let 
$$F(n) = \max_{\substack{m<n\\ m\textrm{ composite}}} m+p(m),$$
where $p(m)$ is the least prime divisor of $m$. Is it true that $F(n)>n$ for all sufficiently large $n$? Does $F(n)-n\to \infty$ as $n\to\infty$?

Status: open

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by smmercuri**
Fixes #702

### CODE REVIEW

File: FormalConjectures/ErdosProblems/385.lean [hunk 1]
```diff
@@ -0,0 +1,55 @@
...
+
+/-- A question of Erdős, Eggleton, and Selfridge, who write that in fact it is possible that
+this quantity is always at least $n+(1-o(1))\sqrt{n}$ -/
+@[category research open, AMS 11]
+theorem erdos_385.variants.lb : answer(sorry) ↔ ∃ (e : ℕ → ℝ) (he : e =o[atTop] (1 : ℕ → ℝ)),
+    ∀ n, n + (1 - e n) * √n ≤ F n :=
+  sorry
+
+/-- (note that it is trivially $\leq n+\sqrt{n}$). -/
+@[category undergraduate, AMS 11]
```
Comment (felixpernegger) [inline FormalConjectures/ErdosProblems/385.lean]:
```suggestion
/-- Note that trivially $F(n) \leq n + \sqrt{n}$. -/
@[category test, AMS 11]
```
I would put this lemma directly under the definition rather than the end

File: FormalConjectures/ErdosProblems/385.lean [hunk 2]
```diff
@@ -0,0 +1,55 @@
...
+
+namespace Erdos385
+
+open Filter
+
+/-- Let \[F(n) = \max_{\substack{m< n\\ m\textrm{ composite}}} m+p(m),\] where $p(m)$ is the least
+prime divisor of $m$. -/
+noncomputable def F (n : ℕ) : ℕ := sSup {m + m.minFac | (m < n) (_ : m.Composite)}
+
+/-- Let \[F(n) = \max_{\substack{m< n\\ m\textrm{ composite}}} m+p(m),\] where $p(m)$ is the least
```
Comment (felixpernegger) [inline FormalConjectures/ErdosProblems/385.lean]:
```suggestion
/-- Let $F(n) := \max\{m + p(m) \mid  \textrm{$m < n$ composite}\}\}$ where $p(m)$ is the least
```

File: FormalConjectures/ErdosProblems/385.lean [hunk 3]
```diff
@@ -0,0 +1,55 @@
...
+prime divisor of $m$. Is it true that $F(n)>n$ for all sufficiently large $n$? -/
+@[category research open, AMS 11]
+theorem erdos_385.parts.i : answer(sorry) ↔ ∀ᶠ n in atTop, n < F n := by sorry
+
+/-- Let \[F(n) = \max_{\substack{m< n\\ m\textrm{ composite}}} m+p(m),\] where $p(m)$ is the least
+prime divisor of $m$. Does $F(n)-n\to \infty$ as $n\to\infty$? -/
```
Comment (felixpernegger) [inline FormalConjectures/ErdosProblems/385.lean]:
```suggestion
/-- Let $F(n) := \max\{m + p(m) \mid  \textrm{$m < n$ composite}\}\}$ where $p(m)$ is the least
prime divisor of $m$. Does $F(n) - n \to \infty$ as $n\to\infty$? -/
```

File: FormalConjectures/ErdosProblems/385.lean [hunk 4]
```diff
@@ -0,0 +1,55 @@
...
+# Erdős Problem 385
+
+*Reference:* [erdosproblems.com/385](https://www.erdosproblems.com/385)
+-/
+
+namespace Erdos385
+
+open Filter
+
+/-- Let \[F(n) = \max_{\substack{m< n\\ m\textrm{ composite}}} m+p(m),\] where $p(m)$ is the least
```
Comment (felixpernegger) [inline FormalConjectures/ErdosProblems/385.lean]:
```suggestion
/-- Let $F(n) := \max\{m + p(m) \mid  \textrm{$m < n$ composite}\}\}$ where $p(m)$ is the least
```

File: FormalConjectures/ErdosProblems/385.lean [hunk 5]
```diff
@@ -0,0 +1,55 @@
...
+/-- Let $F(n) := \max\{m + p(m) \mid  \textrm{$m < n$ composite}\}\}$ where $p(m)$ is the least
+prime divisor of $m$. Is it true that $F(n)>n$ for all sufficiently large $n$? -/
+@[category research open, AMS 11]
+theorem erdos_385.parts.i : answer(sorry) ↔ ∀ᶠ n in atTop, n < F n := by sorry
+
+/-- Let $F(n) := \max\{m + p(m) \mid  \textrm{$m < n$ composite}\}\}$ where $p(m)$ is the least
+prime divisor of $m$. Does $F(n) - n \to \infty$ as $n\to\infty$? -/
+@[category research open, AMS 11]
+theorem erdos_385.parts.ii : answer(sorry) ↔ atTop.Tendsto (fun n ↦ F n - n) atTop := by sorry
+
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/385.lean]: (small nit)
```suggestion
theorem erdos_385.parts.i : answer(sorry) ↔ ∀ᶠ n in atTop, n < F n := by
  sorry

/-- Let $F(n) := \max\{m + p(m) \mid  \textrm{$m < n$ composite}\}\}$ where $p(m)$ is the least
prime divisor of $m$. Does $F(n) - n \to \infty$ as $n\to\infty$? -/
@[category research open, AMS 11]
theorem erdos_385.parts.ii : answer(sorry) ↔ atTop.Tendsto (fun n ↦ F n - n) atTop := by
  sorry

```
